US08703953B2
To a solution of 4-(4-chloro-2-fluorophenyl)-5-fluoronicotinate (300 mg, 1.058 mmol) in tetrahydrofuran (7 mL) cooled to 0° C. was added LAH (0.441 mL, 1.058 mmol) in THF dropwise and the solution was stirred for 30 min. The reaction was then warmed to room temperature and stirred for 12 h. The reaction was quenched with saturated aqueous ammonium chloride (5 mL) and extracted with ethyl acetate (2×5 mL). The combined organic layers were dried over sodium sulphate and concentrated under reduced pressure to afford (4-(4-chloro-2-fluorophenyl)-5-fluoropyridin-3-yl)methanol (200 mg, 0.782 mmol, 74% yield) as a pale brown oil. LCMS (ESI) m/e 255.9 [(M+H)+, calcd for C12H9ClF2NO 256.0]; LC/MS retention time (Method F): tR=0.89 min.

reactant | 4-(4-chloro-2-fluorophenyl)-5-fluoronicotinate | 1.058 mmol, 300 mg | ClC1=CC(=C(C=C1)C1=C(C=NC=C1C(=O)[O-])F)F
reactant | LAH | 1.058 mmol, 0.441 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | (4-(4-chloro-2-fluorophenyl)-5-fluoropyridin-3-yl)methanol | 0.782 mmol, 200 mg, 74% yield | ClC1=CC(=C(C=C1)C1=C(C=NC=C1F)CO)F | C12H8ClF2NO
